US07470705B2
Add diethyl ethoxymethylenemalonate (10.0 ml, 55.0 mmol) to a solution of 6-methyl-pyridin-2-ylamine (5.41 g, 50.0 mmol) in toluene (100 ml). Heat the mixture under reflux overnight. Evaporate the solvent in vacuo to provide 2-[(6-methyl-pyridin-2-ylamino)-methylene]-malonic acid diethyl ester (14.8 g) as a white solid. MS (ES+): 279 (M+H).

reactant | diethyl ethoxymethylenemalonate | 55.0 mmol, 10.0 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 6-methyl-pyridin-2-ylamine | 50.0 mmol, 5.41 g | CC1=CC=CC(=N1)N | C6H8N2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(6-methyl-pyridin-2-ylamino)-methylene]-malonic acid diethyl ester | 14.8 g | C(C)OC(C(C(=O)OCC)=CNC1=NC(=CC=C1)C)=O | C14H18N2O4
